US06489344B1
4-Nitroimidazole (5.0 g, 44 mol) in DMF:THF (1:1 (v/v), 40 ml) was treated at room temperature with 60% NaH (2.2 g). When hydrogen evolution had ceased, 3-bromopropylphthalimide (11.79 g, 44 mmol) was added, followed by heating at 70° C. overnight. The mixture was cooled, diluted with dichloromethane and carefully quenched with water. At this point the solid product precipitated out to give 2-[3-(4-nitroimidazolyl)propyl]isoindoline-1,3-dione as a white solid, 8.85 g. The solid was refluxed with methanol (60 ml) and anhydrous hydrazine (4 ml) overnight. The mixture was cooled to 4° C., then filtered. The filtrate was concentrated to dryness, then partitioned between dichloromethane and 2.5 M aqueous sodium hydroxide. The organic layer was washed with saturated sodium chloride solution, dried and concentrated in vacuo to give 3-(4-nitroimidazolyl)propylamine as an orange syrup, 2.24 g. The amine, 1.18 g was treated with benzotriazole carboxamidinium 4-methylbenzenesulfonate (2.2 g) and DIEA (1.5 ml) in acetonitrile (8 ml) with shaking at room temperature overnight. Addition of ether gave amino[3-(4-nitroimidazolyl)propyl]carboxamidinium 4-methylbenzenesulfonate as a beige solid.

reactant | 4-Nitroimidazole | 44 mol, 5.0 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | NaH | 2.2 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-bromopropylphthalimide | 44 mmol, 11.79 g | BrCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C11H10BrNO2
reactant | DMF THF | 40 ml | CN(C)C=O.C1CCOC1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3-(4-nitroimidazolyl)propyl]isoindoline-1,3-dione | [N+](=O)([O-])C=1N=C(NC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C14H12N4O4
